US08440681B2
A mixture of 5-cyclopropyl-1H-pyrazol-3-amine (246 mg, 2.00 mmol), 2,4,5-trichloropyrimidine (367 mg, 2.00 mmol, 1 equiv.) and Na2CO3 (233 mg, 2.20 mmol, 1.1 equiv.) in EtOH (10 mL) is heated at 40° C. for 16 h. The crude reaction mixture is diluted with EtOAc and sequentially washed with: water (3×) and saturated aqueous NaCl (1×). The resulting EtOAc layer is dried over Na2SO4 and then concentrated in vacuo, providing 2,5-dichloro-N-(5-cyclopropyl-1H-pyrazol-3-yl)pyrimidin-4-amine; ESMS m/z 270.0 (M+H+).

reactant | 5-cyclopropyl-1H-pyrazol-3-amine | 2.00 mmol, 246 mg | C1(CC1)C1=CC(=NN1)N | C6H9N3
reactant | 2,4,5-trichloropyrimidine | 2.00 mmol, 367 mg, 1 equiv. | ClC1=NC=C(C(=N1)Cl)Cl | C4HCl3N2
reactant | Na2CO3 | 2.20 mmol, 233 mg, 1.1 equiv. | C(=O)([O-])[O-].[Na+].[Na+]
solvent | EtOH | 10 mL | CCO | C2H6O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2,5-dichloro-N-(5-cyclopropyl-1H-pyrazol-3-yl)pyrimidin-4-amine | ClC1=NC=C(C(=N1)NC1=NNC(=C1)C1CC1)Cl | C10H9Cl2N5
